US08138173B2
Acetyl chloride (11.0 mL, 152 mmol), acetic acid (13 mL), and phenylhydrazine (15 mL, 152 mmol) were added sequentially to a suspension of ethyl (2-methyl-1H-indol-3-yl)(oxo)acetate (17 g, 76 mmol) in ethanol (380 mL). The reaction mixture was heated at reflux for 18 hours. After cooling to ambient temperature a red solid was isolated by filtration. The solid was boiled in a 1:1 mixture of 0.5 M hydrochloric acid and methanol and filtered to provide 10.8 g of 1-methyl-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one as a tan solid, mp>250° C. MS (APCI) m/z 276 (M+H)+; Anal. calcd for C17H13N3O: C, 74.17; H, 4.76; N, 15.26. Found: C, 73.95; H, 4.76; N, 15.04.

reactant | Acetyl chloride | 152 mmol, 11.0 mL | C(C)(=O)Cl | C2H3ClO
reactant | phenylhydrazine | 152 mmol, 15 mL | C1(=CC=CC=C1)NN | C6H8N2
reactant | ethyl (2-methyl-1H-indol-3-yl)(oxo)acetate | 76 mmol, 17 g | CC=1NC2=CC=CC=C2C1C(C(=O)OCC)=O | C13H13NO3
reactant | hydrochloric acid | 0.5 M | Cl | ClH
solvent | ethanol | 380 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | acetic acid | 13 mL | C(C)(=O)O | C2H4O2
product | 1-methyl-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 10.8 g | CC=1N(N=C2C(NC=3C=CC=CC3C21)=O)C2=CC=CC=C2 | C17H13N3O
